US07838675B2
i) 4-Pyrimidin-2-ylpiperazine-1-sulfonamide
The subtitle compound was prepared according to the procedure outlined in example 15 step i) using 2-piperazin-1-ylpyrimidine (3.0 g) and sulfamide (1.2 g) in dioxane (30 mL) to give the subtitle compound as a white solid. Yield: 2.06 g.

reactant | 2-piperazin-1-ylpyrimidine | 3.0 g | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | sulfamide | 1.2 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-Pyrimidin-2-ylpiperazine-1-sulfonamide | N1=C(N=CC=C1)N1CCN(CC1)S(=O)(=O)N | C8H13N5O2S
